US06043366
8-Cyclodecyl-1-phenyl-3-(4-phenyl-butyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 115° C. and MS: m/e=502.5 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and methanesulfonic acid 4-phenyl-but-1-yl ester.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | methanesulfonic acid 4-phenyl-but-1-yl ester | C1(=CC=CC=C1)CCCCOS(=O)(=O)C | C11H16O3S
product | 8-Cyclodecyl-1-phenyl-3-(4-phenyl-butyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCCCC2=CC=CC=C2)=O)CC1 | InChI=1S/C33H47N3O.ClH/c37-32-33(23-26-34(27-24-33)30-19-10-4-2-1-3-5-11-20-30)36(31-21-12-7-13-22-31)28-35(32)25-15-14-18-29-16-8-6-9-17-29;/h6-9,12-13,16-17,21-22,30H,1-5,10-11,14-15,18-20,23-28H2;1H
